US05342846
N-Benzyl-3-(4,5-dimethyl-1,2,3-triazol-1-yl)pyrrolidine
To a solution of N-benzyl-3-azidopyrrolidine (2.02 g, 0.01 mole) in 30 ml of 98% ethanol was added 15 ml of butyne and heated in a sealed steel reaction vessel at 105°-110° C. for 24 hr. Removal of the solvent under reduced pressure afforded 2.55 g of the crude which contained 50% starting material. Chromatography over silica gel using hexane/ethyl acetate (1:1) as solvent yielded 0.88 g of the desired product. 1H NMR (CDCl3) δ: 7.36-7.2 (m, 5H), 4.95-4.8 (m, 1H), 3.7 (S, 2H), 3.2-3.1 (m, 1H), 2.93-2.76 (m, 3H), 2.48-2.3 (m, 2H), 2.24 (s, 3H), 2.21 (s, 3H).

reactant | N-benzyl-3-azidopyrrolidine | 0.01 mole, 2.02 g | C(C1=CC=CC=C1)N1CC(CC1)N=[N+]=[N-] | C11H14N4
reactant | butyne | 15 ml | C#CCC | C4H6
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-Benzyl-3-(4,5-dimethyl-1,2,3-triazol-1-yl)pyrrolidine | 0.88 g | C(C1=CC=CC=C1)N1CC(CC1)N1N=NC(=C1C)C | C15H20N4
